US06187905B1
1 g of (E)-2-heptenoic acid was dissolved in 20 ml of toluene and the resulting solution was heated to 80° C. A solution of 11.2 ml of N,N-dimethylformamide di-tert-butyl acetal in 10 ml of toluene was added and the mixture was stirred at 80° C. for 30 minutes. The mixture was cooled and washed in sequence with water, saturated sodium bicarbonate solution and saturated brine. The organic phase was dried over anhydrous magnesium sulphate and evaporated. The residue was purified by chromatography on silica gel using 10% ethyl acetate in hexane for the elution to give 0.85 g of tert-butyl (E)-2-heptenoate as a colorless oil, 1H NMR (400 MHz, CDCl3) δ: 0.85 (t,3H), 1.2-1.4 (m,4H), 1.45 (s,9H), 2.1 (m,2H), 5.65 (dt,1H), 6.8 (d,1H).

reactant | (E)-2-heptenoic acid | 1 g | C(\C=C\CCCC)(=O)O | C7H12O2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 11.2 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (E)-2-heptenoate | 0.85 g | C(\C=C\CCCC)(=O)OC(C)(C)C | C11H20O2
